US04192803
A mixture of 5.7 g. of 1-(2-amino-4-chlorobenzyl)-2-pyrrolecarboxylic acid (prepared by the method of Example 5, using 1-(2-amino-4-chlorobenzyl)-2-pyrrolecarbonitrile), 3.9 g. of N,N'-carbonyldiimidazole and 60 ml. of tetrahydrofuran is stirred with cooling for one hour, allowed to stand at room temperature, heated on a steam bath for one hour, diluted with 5 ml. of water and concentrated to remove the tetrahydrofuran. The residue is dissolved in methylene chloride, washed successively with water, 25 ml. of 1 N sodium hydroxide and water, dried over magnesium sulfate and concentrated to remove the solvent. The resulting viscous oil is dissolved in 20 ml. of ethyl acetate and cooled giving crystals. These crystals are heated at 105° C. for one hour and then triturated with ethyl acetate giving 8-chloro-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]-benzodiazepin-11-one.

reactant | 1-(2-amino-4-chlorobenzyl)-2-pyrrolecarboxylic acid | NC1=C(CN2C(=CC=C2)C(=O)O)C=CC(=C1)Cl | C12H11ClN2O2
reactant | 1-(2-amino-4-chlorobenzyl)-2-pyrrolecarbonitrile | NC1=C(CN2C(=CC=C2)C#N)C=CC(=C1)Cl | C12H10ClN3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-chloro-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]-benzodiazepin-11-one | ClC1=CC2=C(CN3C(C(N2)=O)=CC=C3)C=C1 | C12H9ClN2O
